US07153874B2
2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (II-1)
4-Bromo-2-methyl-pyridine (1.92 g, 11.2 mmol) was dissolved in 50 mL dry THF and triethylamine (3.9 mL, 30 mmol) was added. This mixture was evacuated and backfilled with argon several times to remove oxygen from the solution. Triphenylphosphin (73 mg, 0.28 mmol) and bis(triphenylphosphin)palladium(II)chloride (327 mg, 0.47 mmol) were added and the reaction mixture was stirred at RT for 20 min. Copper(I)iodide (53 mg, 0.28 mmol) and a mixture of 4-ethynyl-2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole and 5-ethynyl-2-methyl-1-(2-trimethyl-silanyl-ethoxymethyl)-1H-imidazole (2.2 g, 9.3 mmol) were added. The reaction mixture was then stirred at RT overnight. The solvent was evaporated. The residue was taken up in 50 mL water and extracted three times with ethyl acetate (70 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethyl acetate 80:20 →0:100 gradient ) and the desired compound was obtained as a mixture of 2 isomers (2.86 g, 94%), MS: m/e=327.2 (M+).

reactant | 4-Bromo-2-methyl-pyridine | 11.2 mmol, 1.92 g | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | triethylamine | 30 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | Triphenylphosphin | 0.28 mmol, 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-ethynyl-2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | C(#C)C=1N=C(N(C1)COCC[Si](C)(C)C)C | C12H20N2OSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphin)palladium(II)chloride | 0.47 mmol, 327 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | Copper(I)iodide | 0.28 mmol, 53 mg | [Cu]I
product | 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
